US05254720
The [PdCl2 /CuCl2 /CO] complex was freshly prepared as described above. Ph3P (0.13 g, 0.50 mmol) was added and the mixture was transferred to an autoclave (Hastelloy B, 100-mL). A solution of 4-methoxystyrene (1.07 g, 8.0 mmol), H2O (1 mL), and THF (15 mL) was then added via syringe. The autoclave was purged with CO (2×500 psig) and was then pressurized with CO (500 psig). After stirring at 50° C. for 16 hours, the reactor was cooled to room temperature and CO pressure was released. Standard workup afforded 2-(4-methoxyphenyl)propionic acid (1.42 g, 99% yield) Mp=52-55° C. (without further purification).

reactant | Ph3P | 0.50 mmol, 0.13 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 4-methoxystyrene | 8.0 mmol, 1.07 g | COC1=CC=C(C=C)C=C1 | C9H10O
reactant | H2O | 1 mL | O | H2O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(4-methoxyphenyl)propionic acid | 1.42 g, 99% yield | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
